* C:\users\nils\Documents\001_Studium\007_Semester7-BA\Selfe-Tuned-Filter\001_Simulation_und_Schaltungsentwurf\008_LTSpice\spice_tran_sprungantwort.asc
VE1 V_r 0 9.74
XU9 V_HP 0 V_r V_in 0 V+ Mult1_out Mult1_out 0 V- MPY634
XU10 0 N005 V+ V- V_F2 tl082
V_OP1 V+ 0 11
V_OP2 0 V- 11
R4 N005 V_in 1k
C2 Mult3_out N002 1µ
R5 V_F2 N005 1k
R7 N003 V_F2 1k
R6 N003 V_TP 1k
R3 N005 V_F1 1k
XU12 0 N003 V+ V- V_HP tl082
R8 V_HP N003 1k
XU11 0 N002 V+ V- V_TP tl082
C1 Mult2_out N001 1µ
XU13 0 N001 V+ V- V_F1 tl082
C3 V_Int N004 1µ
XU14 0 N004 V+ V- V_Int tl082
R9 N004 Mult1_out 1k
R10 V_F3 V_Int 100
R11 N006 V_F3 100k
V1 N006 0 2
R1 N001 V_HP 1k
R2 N002 V_F1 1k
XU15 V_F1 0 V_r V_F3 0 V+ Mult2_out Mult2_out 0 V- MPY634
XU16 V_TP 0 V_r V_F3 0 V+ Mult3_out Mult3_out 0 V- MPY634
V2 f_pulse 0 PULSE(0 1 10m 1n 1n 150m)
B1 V_in 0 V=0.1*sin(2*pi*(750+2250*V(f_pulse))*time)
.tran 425m
.inc tl082.cir
.inc mpy634_tina.lib
.lib mpy634.cir
.backanno
.end
