* C:\users\nils\Documents\001_Studium\007_Semester7-BA\Selfe-Tuned-Filter\001_Simulation_und_Schaltungsentwurf\008_LTSpice\spice_tune_bereich.asc
R1 N006 V_HP 1k
R2 N007 V_F1 1k
R3 N009 V_TP 1k
R5 V_HP N009 1k
R9 N009 V_F2 1k
R6 V_F2 N011 1k
R8 N011 V_F1 1k
R7 N011 N004 1k
C2 N001 N006 1µ
C1 N002 N007 1µ
V_OP+ V+ 0 11
V_OP- 0 V- 11
XU1 0 N006 V+ V- V_F1 tl082
XU2 0 N007 V+ V- V_TP tl082
XU3 0 N009 V+ V- V_HP tl082
XU5 0 N011 V+ V- V_F2 tl082
XU6 V_F3 0 ve V_F1 0 vdd N001 N001 0 vss MPY634
XU7 V_F3 0 ve V_TP 0 vdd N002 N002 0 vss MPY634
XU8 V_HP 0 ve N004 0 vdd N003 N003 0 vss MPY634
VDD1 vdd 0 11
VSS1 0 vss 11
VE1 ve 0 10
XU4 0 N008 V+ V- N005 tl082
V3 N010 0 2
R11 V_F3 N010 100k
R10 V_F3 N005 100
R4 N008 N003 100
C3 N005 N008 100n
V_ctrl f_ctrl 0 PULSE(0 10 0 1 0 0 0)
B1 N004 0 V=0.1*sin(2*pi*(100+19900*V(f_ctrl))*time)
*.ac dec 1000 50 5000
.inc tl082.cir
.inc mpy634.cir
.tran 0 500 0
*;step param R_C list 1k 25k 100k
.param C=1u Cx3=1u R=1k R_C=1k
*;dc V3 0 5 0.1
*;ac dec 50 50 1000
.lib mpy634.cir
.backanno
.end
